***
*$
*  UCC27211 Model
*****************************************************************************
*  (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warrenties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: UCC27211
* Date: 11/16/2011
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: None
* EVM Users Guide: None
* Datasheet: SLUSAT7 - November 2011
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
* source UCC27211
.SUBCKT UCC27211
+ HB
+ HI
+ HO
+ HS
+ LI
+ LO
+ VDD
+ VSS

*$
.model PMOS01 PMOS
+ VTO = -1
+ KP = 0.46
+ LAMBDA = 0.001
+ RS = 1m
*$
.model NMOS01 NMOS
+ VTO = 3
+ KP = 2.25
+ LAMBDA = 0.001
+ RS = 1m
*$
.model DIODE01 D
+ IS = 1.038e-15
+ N = 1
+ TT = 20e-9
+ CJO = 5e-12
+ RS = 0.50
+ BV = 130
*$
.SUBCKT DELAY INP OUT PARAMS: RINP = 1k DELAY = 10n
R1 INP 101 {RINP}
C1 101 102 { 1.4427 * DELAY / RINP }
E1 102 0 OUT 0 0.5
B2 103 0 V={IF(V(101) > 0.5, 1, 0)}
R2 103 OUT 1
C2 OUT 0 1n
.ENDS DELAY
*$
.SUBCKT AND2 A B Y
BINT YINT 0 V={IF(V(A) > 0.5 & V(B) > 0.5, 1, 0)}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2
*$
.SUBCKT AND3 A B C Y
BINT YINT 0
+ V={IF(V(A) > 0.5 & V(B) > 0.5 & V(C) > 0.5, 1, 0)}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3
*$
.SUBCKT BUF_BOB A Y VDD VSS PARAMS: VTHRESH = 0.5
BINT YINT 0 V={IF(V(A) > { VTHRESH }, V(VDD), V(VSS))}
RINT YINT Y 1
CINT Y VSS 1n
.ENDS BUF_BOB
*$
.SUBCKT INV_BOB A Y VDD VSS PARAMS: VTHRESH = 0.5
BINT YINT 0 V={IF(V(A) < { VTHRESH }, V(VDD), V(VSS))}
RINT YINT Y 1
CINT Y VSS 1n
.ENDS INV_BOB
*$
.SUBCKT COMP_BOB Y VINP VINN VHYS
BINT YINT 0
+ V={ MAX(0, MIN(1, 1000*(5e-4 + V(Y)*V(VHYS) + V(VINP) - V(VINN)))) }
RINT YINT Y 1
CINT Y 0 1n
.ENDS COMP_BOB
*$

C_U7_C4 HS HO 1pF
B_U7_E1 U7_N208620 HO
+ V={ IF(V(U7_N208706, 0) > 0.5, 5, -5) }
C_U7_C3 HO U7_N208506 20p
C_U7_C5 HO HB 1pF
R_U7_R4 HB U7_N208424 .2
M_U7_M1 U7_N208424 U7_N208506 HO HO NMOS01
+ L=10u
+ W=10u
M_U7_M2 U7_N208826 U7_N208506 HO HO PMOS01
R_U7_R5 U7_N208826 HS .2
R_U7_R3 U7_N208506 U7_N208620 100
C_U7_C1 U7_N208506 U7_N208424 7p
C_U7_C2 U7_N208826 U7_N208506 7p
X_U7_U1 H_DRV U7_N208706 DELAY PARAMS: RINP=1K DELAY=16n
C_U8_C4 VSS LO 1pF
B_U8_E1 U8_N208620 LO
+ V={ IF(V(U8_N208706, 0) > 0.5, 5, -5) }
C_U8_C3 LO U8_N208506 20p
C_U8_C5 LO VDD 1pF
R_U8_R4 VDD U8_N208424 .2
M_U8_M1 U8_N208424 U8_N208506 LO LO NMOS01
+ L=10u
+ W=10u
M_U8_M2 U8_N208826 U8_N208506 LO LO PMOS01
R_U8_R5 U8_N208826 VSS .2
R_U8_R3 U8_N208506 U8_N208620 100
C_U8_C1 U8_N208506 U8_N208424 7p
C_U8_C2 U8_N208826 U8_N208506 7p
X_U8_U1 L_DRV U8_N208706 DELAY PARAMS: RINP=1K DELAY=16n
G_U3_G1 HB HS H_ENB 0 65u
V_U3_V1 U3_N00585 HS 6.7Vdc
V_U3_V2 U3_N00613 0 1.1Vdc
X_U3_U1 H_ENB HB U3_N00585 U3_N00613 COMP_BOB
R_U1_R1 VSS HI 70k
C_U1_C1 VSS HI 2p
X_U1_U1 H_INP HI U1_N02053 U1_N02141 COMP_BOB
R_U1_R2 VSS VDD 1G
V_U1_V1 U1_N02053 VSS 2.3Vdc
V_U1_V2 U1_N02141 0 0.7Vdc
G_U4_G1 VDD VSS L_ENB 0 80u
V_U4_V1 U4_N00415 VSS 7.0Vdc
V_U4_V2 U4_N00435 0 0.5Vdc
X_U4_U1 L_ENB VDD U4_N00415 U4_N00435 COMP_BOB
R_U2_R1 VSS LI 70k
C_U2_C1 VSS LI 2p
X_U2_U1 L_INP LI U2_N02053 U2_N02141 COMP_BOB
R_U2_R2 VSS VDD 1G
V_U2_V1 U2_N02053 VSS 2.3Vdc
V_U2_V2 U2_N02141 0 0.7Vdc
X_U6 L_INP L_ENB L_DRV AND2
D_D1 VDD HB DIODE01
X_U5 H_ENB H_INP L_ENB H_DRV AND3
.ENDS UCC27211
